US08486939B2
A stirred mixture of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole (0.183 g, 0.5 mmol) and 2-aminomethylpyridine (0.135 g, 1.25 mmol) in 10 mL dioxane was heated gently until a clear solution was obtained. After cooling, the mixture was diluted with water to give an oily solid, which was recrystallized from aqueous MeOH to give 0.11 g (50% yield) of 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(2-pyridinylmethyl)-1,3,5-triazin-2-amine: mp 192-193° C.; 1H NMR (CDCl3) (rotamers) δ8.65 (d, J=1.8 Hz, 1H), 8.57 (dd, J=4.7, 1.0 Hz, 1H), 8.40 and 8.25 (2d, J=7.5 and 5.5 Hz, 1H), 7.88 (m, 1H), 7.70 (d, J=7.7 Hz, 1H), 7.62 (t, JHF=54.5 Hz, 1H), 7.43-7.37 (m, 2H), 7.30 (ddd, J=7.9, 4.8, 0.7 Hz, 1H), 5.75 and 5.64 (2 m, exchangeable with D2O, 1H), 4.76 and 4.69 (2 d, J=5.7 and 5.8 Hz, 2H), 3.87 (m, 4H), 3.78 (m, 4H); Anal. Calcd. for C21H20F2N8O: C, 57.5; H, 4.6; N, 25.6. Found: C, 57.5; H, 4.5; N, 25.6%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-1H-benzimidazole | 0.5 mmol, 0.183 g | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C15H13ClF2N6O
reactant | 2-aminomethylpyridine | 1.25 mmol, 0.135 g | NCC1=NC=CC=C1 | C6H8N2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-(2-pyridinylmethyl)-1,3,5-triazin-2-amine | 0.11 g, 50% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NCC1=NC=CC=C1)C=CC=C2)F | C21H20F2N8O
